US08003692B2
3-(1-Methyl-1H-pyrazol-4-yl)-cyclohex-2-enone.
To a 50 mL round bottom flask containing a stir bar was added 0.152 g of 3-bromocyclohex-2-enone (0.868 mmol), 0.216 g of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.04 mmol), 5 mL of THF, 4.0 mL of an aqueous solution of 2.0 M KF solution, and 0.139 g of 5% Pd on activated charcoal (Degussa type E105 CA/W, 7.5 mol %). The reaction was stirred, placed under nitrogen, and heated to 60° C. in an oil bath overnight. The reaction was not complete by TLC so the temperature was raised to 80° C. and heated an additional 18 hours. The reaction was worked up by filtering the crude mixture through a celite plug and extraction with methylene chloride (2 times with 5 mL). The organic phases were combined, dried with sodium sulfate, filtered, and concentrated under reduced pressure. The mixture was passed through a Fisher Prep Sep SCX column eluting with 8 mL of CH2Cl2 followed by 5 mL of methanol/ammonia (7N). The fractions were not pure so purification was accomplished using flash chromatography on the Biotage system utilizing gradient elution (0% to 80% ethyl acetate/hexanes). The product fractions were combined and concentrated to give a white powder (45 mg, 29%). 1H NMR (CDCl3, 300 MHz): δ 2.09 (quintet, J=6.3 Hz, 2H), 2.41-2.46 (m, 2H), 2.63 (t, J=6.3 Hz, 2H), 3.92 (s, 3H), 6.26 (t, J=2.4 Hz, 1H), 7.57 (s, 1H), 7.69 (s, 1H). 13C NMR (CDCl3, 75 MHz): δ 22.5, 27.9, 37.4, 39.4, 121.5, 128.6, 137.6, 151.9, 199.3. LCMS (ESI): mass calcd for (C10H12N2O) m/z 176.09; measured [M+H]+: m/z 177.08.

reactant | 3-bromocyclohex-2-enone | 0.868 mmol, 0.152 g | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.04 mmol, 0.216 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | KF | 2.0 M | [F-].[K+]
catalyst | Pd on activated charcoal | 0.139 g | [Pd] | Pd
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(1-Methyl-1H-pyrazol-4-yl)-cyclohex-2-enone | 45 mg, 29% | CN1N=CC(=C1)C1=CC(CCC1)=O | C10H12N2O
